US04515962
Allyl-bicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid N-(2-ethyl-hexyl)-imide
The procedure described in Example 3 is repeated, except that 204 g of allyl-bicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid anhydride and 129 g of 2-ethylhexylamine are used. 17 g of water are split off at 115° to 160° C. under 4,000 Pa in the course of 4.5 hours. 292.05 g (92.6% of theory) of a fraction of boiling point 160°-164° C. under 10.7 Pa, nD20 1.5038 and η25 0.68 Pa.s are obtained.

reactant | allyl-bicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid anhydride | 204 g | C(C=C)C12C3C(C(C=C1)C2)C(=O)OC3=O | C12H12O3
reactant | 2-ethylhexylamine | 129 g | C(C)C(CN)CCCC | C8H19N
product | Allyl-bicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid N-(2-ethyl-hexyl)-imide | C(C)C(CN=C(O)C1C2(C=CC(C1C(=O)O)C2)CC=C)CCCC | C20H31NO3
